US07067540B2
5-bromo-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6-oxo-1,6-dihydropyridine-2-carboxylic acid
In a 100 ml round bottom flask, 3-bromo-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6 (hydroxymethyl)pyridin-2(1H)-one (1.70 g, 3.7 mmol) was dissolved in acetone (10 mL) and cooled to 0° C. in ice bath. To the reaction was added 1M acetone solution of Jones (5 ml, excess amount). Additional Jones reagent was added over time (approximately 6 hours) until the reaction was complete. The reaction was then concentrated down to dryness. The residue was then taken up in ethyl acetate (10 mL) and washed with brine. The dark yellow to brown colored crude product was purified by dissolving in 1N aqueous NaOH. The remaining organic impurities were removed by extracting with diethyl ether. The organic layers were discarded and the aqueous layer was acidified with dilute HCl (til pH app 1) to precipitate the pure acid which was then filtered and triturated with ether to obtain 1.17 g (65%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 7.66 (q, J=9.41 Hz, 1H), 7.57-7.50 (m, 1H), 7.34 (dt, J=10.11, 2.78 Hz, 1H), 7.28-7.23 (m, 3H), 7.18 (dt, 8.90, 2.42 Hz, 1H), 5.47 (s, 2H). ES-HRMS m/z 471.9814 (M+H calcd for C19H11BrF4NO4, requires 471.9808).

reactant | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6 (hydroxymethyl)pyridin-2(1H)-one | 3.7 mmol, 1.70 g | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)CO)C1=C(C=CC=C1F)F)=O | C19H12BrF4NO3
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | acetone | 1M | CC(=O)C | C3H6O
product | 5-bromo-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6-oxo-1,6-dihydropyridine-2-carboxylic acid | 1.17 g, 65% | BrC1=C(C=C(N(C1=O)C1=C(C=CC=C1F)F)C(=O)O)OCC1=C(C=C(C=C1)F)F | C19H10BrF4NO4
